US09210931B2
Step 2: Preparation of tert-Butyl (4-bromo-1H-imidazol-1-yl)(ethyl)carbamate
tert-Butyl (4-bromo-1H-imidazol-1-yl)carbamate (1.16 g, 4.43 mmol) was dissolved in N,N-dimethylformamide (DMF, 12 mL) and treated with sodium hydride (0.310 g, 7.75 mmol, 60% dispersion in oil). After 45 minutes, the mixture was cooled on an ice bath and was treated with iodoethane (0.828 g, 5.31 mmol). The ice bath was removed after five minutes of stirring and the reaction was stirred for an additional 90 minutes. The reaction mixture was diluted with aqueous potassium carbonate (50 mL, 5% w/w) and the product was extracted with ethyl acetate. The organics were washed with 5% aqueous potassium carbonate and brine and dried over sodium sulfate. The organic layer was concentrated and the residue was purified using silica gel chromatography (0-10% methanol/dichloromethane) to afford the title compound (1.023 g, 3.53 mmol, 80%) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.37 (d, J=1.5 Hz, 1H), 6.93 (d, J=1.5 Hz, 1H), 3.71 (q, J=7.2 Hz, 2H), 1.44 (s, 9H), 1.16 (t, J=7.2 Hz, 3H); ESIMS m/z 290 ([M+H]+).

reactant | tert-Butyl (4-bromo-1H-imidazol-1-yl)carbamate | 4.43 mmol, 1.16 g | BrC=1N=CN(C1)NC(OC(C)(C)C)=O | C8H12BrN3O2
reactant | sodium hydride | 7.75 mmol, 0.310 g | [H-].[Na+]
reactant | iodoethane | 5.31 mmol, 0.828 g | ICC | C2H5I
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | tert-Butyl (4-bromo-1H-imidazol-1-yl)(ethyl)carbamate | 3.53 mmol, 1.023 g, 80% | BrC=1N=CN(C1)N(C(OC(C)(C)C)=O)CC | C10H16BrN3O2
